US08461196B2
A. Synthesis of 1-(3,4-Dichlorophenyl)-3-oxa-bicyclo[3.1.0]hexane-2,4-dione
To a stirred solution of the 1-(3,4-dichlorophenyl)cyclopropane-1,2-dicarboxylic acid (28.3 g) in acetyl chloride (142 ml) was heated to reflux for 3 h, cooled to room temperature and evaporated. The oil was dissolved in toluene (100 ml) and evaporated to dryness. This was then repeated twice before triturating the semi-solid in hexane (100 ml). The solid was filtered off, washed with hexane and pulled dry under a nitrogen atmosphere to give a brown solid, yield=26.7 g (101%); 1HNMR (300 MHz, CDCl3) δ 7.52-7.46 (m, 2H, ArH), 7.27-7.24 (m, 1H, ArH), 3.35-3.30 (m, 1H, CH), 2.13-2.10 (m, 1H, CH), 1.97-1.95 (m, 1H, CH).

reactant | 1-(3,4-dichlorophenyl)cyclopropane-1,2-dicarboxylic acid | 28.3 g | ClC=1C=C(C=CC1Cl)C1(C(C1)C(=O)O)C(=O)O | C11H8Cl2O4
solvent | acetyl chloride | 142 ml | C(C)(=O)Cl | C2H3ClO
product | 1-(3,4-Dichlorophenyl)-3-oxa-bicyclo[3.1.0]hexane-2,4-dione | ClC=1C=C(C=CC1Cl)C12C(OC(C2C1)=O)=O | C11H6Cl2O3
